### PR TITLE
feat(Cosmology/FLRW): formalize Hubble/deceleration informal lemmas

### PR DESCRIPTION
**Pull request by doxtor6**
## Summary
- Formalize three informal lemmas in `Physlib/Cosmology/FLRW/Basic.lean` (tags `6Z23H`, `6Z3BS`, `6Z3FS`):
  - `decelerationParameter_eq_one_plus_hubbleConstant`: `q = -(1 + dₜH/H²)`
  - `time_evolution_hubbleConstant`: `dₜH = -H² (1 + q)`
  - `hubbleConstant_decrease_iff`: `(∃ t, dₜH t < 0) ↔ (∃ t, q t > -1)`
- Add a small helper `deriv_hubbleConstant` deriving the quotient-rule form `dₜH = (a''·a − (a')²)/a²` via `deriv_div`, used by both equality lemmas.

### Note on `hubbleConstant_decrease_iff`
The informal statement was written as `q < -1`, but this is physically reversed. From `dₜH = -H²(1+q)` with `H ≠ 0`:
- `q > -1` ↔ `dₜH < 0` (H **decreases** — matter, radiation, ΛCDM, the actual history of our universe).
- `q < -1` ↔ `dₜH > 0` (H **grows** — phantom dark energy, Big Rip; not observed).

The formal lemma uses the corrected inequality `-1 < q`, with the docstring documenting the change.

### TODO list
These three tags will drop off https://physlib.io/TODOList on the next regeneration of `docs/_data/TODO.yml` (auto-generated by `lake exe TODO_to_yml mkFile`); no extra changes needed.

## Test plan
- [x] `lake build Physlib.Cosmology.FLRW.Basic` clean (0 errors, 0 warnings).
- [ ] Maintainer to confirm the corrected sign in `hubbleConstant_decrease_iff` is acceptable.

### CODE REVIEW

File: Physlib/Cosmology/FLRW/Basic.lean
Comment (jstoobysmith) [inline Physlib/Cosmology/FLRW/Basic.lean]: We should probably make `t` here have type `Time` not `Real`.

File: Physlib/Cosmology/FLRW/Basic.lean [hunk 1]
```diff
@@ -172,21 +172,60 @@ noncomputable def hubbleConstant (a : ℝ → ℝ) (t : ℝ) : ℝ :=
...
-informal_lemma time_evolution_hubbleConstant where
-  deps := []
-  tag := "6Z3BS"
-
-/-- There exists a time at which the hubble constant decreases if and only if
-  there exists a time where the deceleration parameter is less then `-1`. -/
-informal_lemma hubbleConstant_decrease_iff where
-  deps := []
-  tag := "6Z3FS"
+lemma time_evolution_hubbleConstant
```
Comment (jstoobysmith) [inline Physlib/Cosmology/FLRW/Basic.lean]: This is likely not the most `Mathlib` style name for this (not your fault - probably mine). I think we could probably change it.

File: Physlib/Cosmology/FLRW/Basic.lean [hunk 2]
```diff
@@ -172,21 +172,60 @@ noncomputable def hubbleConstant (a : ℝ → ℝ) (t : ℝ) : ℝ :=
...
+    {a : ℝ → ℝ} {t : ℝ}
+    (ha : DifferentiableAt ℝ a t) (hd_a : DifferentiableAt ℝ (deriv a) t)
+    (haz : a t ≠ 0) (hd_az : deriv a t ≠ 0) :
+    deriv (hubbleConstant a) t =
+      -(hubbleConstant a t) ^ 2 * (1 + decelerationParameter a t) := by
+  rw [deriv_hubbleConstant ha hd_a haz]
+  unfold hubbleConstant decelerationParameter
```
Comment (jstoobysmith) [inline Physlib/Cosmology/FLRW/Basic.lean]: Instead of using `unfold` I think it is better to write some API for `hubbleConstant` and `decelerationParameter`.

File: Physlib/Cosmology/FLRW/Basic.lean
Comment (doxtor6) [reply Physlib/Cosmology/FLRW/Basic.lean]: hubbleConstant a t and decelerationParameter a t are pre-existing defs taking a : ℝ → ℝ, t : ℝ. But I can update the everything with  type Time if you want.

Comment (jstoobysmith) [reply Physlib/Cosmology/FLRW/Basic.lean]: If it is easy for you to do this (e.g. with an AI) please could you. But don't worry if not.

Comment (doxtor6) [reply Physlib/Cosmology/FLRW/Basic.lean]: I gave it a try. It’s possible, but we need to add a new lemma for the quotient rule, deriv_div, to Time.deriv. Would you like to take a look at how it’s coming along first?

Comment (jstoobysmith) [reply Physlib/Cosmology/FLRW/Basic.lean]: I think you should be able to do something like: `rw [Time.deriv, deriv_div]` not the prettiest, but it gets around adding another lemma (which i'm not against, all API is good :)). Happy to look at things whenever you think most appropriate.

Comment (jstoobysmith) [reply Physlib/Cosmology/FLRW/Basic.lean]: Also happy if you think we should leave this as a future PR, in which case we should just add a TODO item.

Comment (doxtor6) [reply Physlib/Cosmology/FLRW/Basic.lean]: I just made a update on this PR, the deriv_div lemma is a little complicated, let me know if you think we can improve it.

File: Physlib/SpaceAndTime/Time/Derivatives.lean [hunk 3]
```diff
@@ -72,6 +72,29 @@ lemma deriv_neg [NormedAddCommGroup M] [NormedSpace ℝ M] (f : Time → M) :
...
+    change fderiv ℝ (Inv.inv ∘ g) t = _
+    exact fderiv_comp t (differentiableAt_inv hgz) hg
+  rw [h_eq, Time.deriv_eq, fderiv_fun_mul hc h_inv]
+  simp only [ContinuousLinearMap.add_apply, ContinuousLinearMap.smul_apply, smul_eq_mul]
+  rw [h_inv_fderiv, fderiv_inv' hgz]
+  simp only [ContinuousLinearMap.coe_comp', Function.comp_apply,
+    ContinuousLinearMap.neg_apply, ContinuousLinearMap.mulLeftRight_apply]
+  rw [← Time.deriv_eq c t, ← Time.deriv_eq g t]
+  field_simp
+  ring
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Time/Derivatives.lean]:
```suggestion
  repeat rw [Time.deriv_eq]
  ring_nf
  simp [fderiv_fun_mul hc (DifferentiableAt.fun_inv (by fun_prop) hgz),
    fderiv_comp' t (differentiableAt_inv hgz) hg]
  grind 
```

File: Physlib/Cosmology/FLRW/Basic.lean [hunk 4]
```diff
@@ -169,24 +178,62 @@ noncomputable def hubbleConstant (a : ℝ → ℝ) (t : ℝ) : ℝ :=
...
+
+  (The corresponding informal statement was written with `q < -1`. Since
+  `dₜ H = -H² (1 + q)` and `H ≠ 0`, one has `dₜ H < 0 ↔ q > -1`, so the formal
+  statement uses the corrected inequality `-1 < q`.) -/
+lemma deriv_hubbleConstant_neg_iff
+    {a : Time → ℝ}
+    (ha : ∀ t, DifferentiableAt ℝ a t) (hd_a : ∀ t, DifferentiableAt ℝ (∂ₜ a) t)
+    (haz : ∀ t, a t ≠ 0) (hd_az : ∀ t, ∂ₜ a t ≠ 0) :
+    (∃ t, ∂ₜ (hubbleConstant a) t < 0) ↔ (∃ t, -1 < decelerationParameter a t) := by
+  have key : ∀ t, ∂ₜ (hubbleConstant a) t < 0 ↔ -1 < decelerationParameter a t := by
```
Comment (jstoobysmith) [inline Physlib/Cosmology/FLRW/Basic.lean]: would make this a separate theorem.

**Review by jstoobysmith — COMMENTED** [review]
Two more comments, but otherwise this looks good to me :).

File: Physlib/Cosmology/FLRW/Basic.lean (hunk 4 above)
Comment (doxtor6) [reply Physlib/Cosmology/FLRW/Basic.lean]: No problem!

File: Physlib/SpaceAndTime/Time/Derivatives.lean (hunk 3 above)
Comment (doxtor6) [reply Physlib/SpaceAndTime/Time/Derivatives.lean]: looks good!

**Review by jstoobysmith — DISMISSED** [review]
Approved - many thanks. This looks good to me now. You don't have to do anything else here, I will merge shortly.

**Comment by jstoobysmith** [comment]
(Although just noticed one of the linters failed, if you could fix that it would be great - though also easy for me to do)

**Comment by doxtor6** [comment]
> Approved - many thanks. This looks good to me now. You don't have to do anything else here, I will merge shortly.

Thanks a lot! I just fix the linters failed, there should be no error this this.

**Review by jstoobysmith — APPROVED** [review]
Approved - will merge now.
